US07790710B2
D2. 4-Bromo-N-(tetrahydro-furan-2-ylmethyl)-benzenesulfonamide
1.70 ml of commercially available tetrahydrofurfurylamine are dissolved in 45 ml of dry dichloromethane. A solution of 3.83 g of 4-bromo-benzenesulfonyl chloride in 20 ml of dichloromethane are slowly added at room temperature. Subsequently, 5.14 ml of Hünig's base are added and stirring is continued for 1.5 hours. For extraction, the reaction mixture is diluted with 150 ml of dichloromethane and 50 ml of water. The organic layer is dried using Na2SO4, filtered with suction, and concentrated in vacuo. Purification by chromatography on flash silica gel (eluent: dichloromethane/0-5 vol. % ethanol) affords 4.33 g of the title compound as an light yellow oil. ESI-MS: 320.3/322.1 (MH+, 100%:98%). TLC: Rf=0.65 (dichloromethane/ethanol 20:1 parts by volume).

reactant | tetrahydrofurfurylamine | C(C1CCCO1)N | C5H11NO
reactant | 4-bromo-benzenesulfonyl chloride | 3.83 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | Hünig's base | 5.14 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Bromo-N-(tetrahydro-furan-2-ylmethyl)-benzenesulfonamide | 4.33 g | BrC1=CC=C(C=C1)S(=O)(=O)NCC1OCCC1 | C11H14BrNO3S
